US07192943B2
To a solution of 2-(4,5-diamino-1H-pyrazol-1-yl)ethanol sulfate (5 g) in water (30 ml) and dioxane (15 ml) was added aqueous sodium hydroxide solution under ice-cooling to adjust the mixture to pH 7. Phenyl chloroformate (3.42 g) was added to the mixture with controlling pH at 7, and the whole mixture was stirred at room temperature for 2 hours. The reaction mixture was extracted with ethyl acetate-tetrahydrofuran (1:1) and the extract was dried over anhydrous magnesium sulfate. Evaporation of the solvent gave a crude product of phenyl [5-amino-1-(2-hydroxyethyl)-1H-pyrazol-4-yl]carbamate as an oil, which was used for Preparation 44 without further purification.

reactant | 2-(4,5-diamino-1H-pyrazol-1-yl)ethanol sulfate | 5 g | S(=O)(=O)(O)OCCN1N=CC(=C1N)N | C5H10N4O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Phenyl chloroformate | 3.42 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | water | 30 ml | O | H2O
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | phenyl [5-amino-1-(2-hydroxyethyl)-1H-pyrazol-4-yl]carbamate | NC1=C(C=NN1CCO)NC(OC1=CC=CC=C1)=O | C12H14N4O3
